US05233035
After 25.42 g of p-hydroxythiophenol was dissolved in 100 ml of methylene chloride, 20.2 g of triethylamine was dropwise added to the solution under ice cooling. Then, 39.2 g of tert-butyl bromoacetate was added to the mixture followed by reacting at room temperature for an hour. After completion of the reaction, the reaction mixture was washed with 3 times with 1N-HCl and once with saturated sodium chloride aqueous solution. After the organic phase was dried over magnesium sulfate, methylene chloride was distilled off to give tert-butyl (4-hydroxyphenylthio)acetate (quantitative).

reactant | p-hydroxythiophenol | 25.42 g | OC1=CC=C(C=C1)S | C6H6OS
reactant | triethylamine | 20.2 g | C(C)N(CC)CC | C6H15N
reactant | tert-butyl bromoacetate | 39.2 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl (4-hydroxyphenylthio)acetate | OC1=CC=C(C=C1)SCC(=O)OC(C)(C)C | C12H16O3S
